US09024021B2
A mixture of 4-methyl-3-[(quinolin-3-yl)ethynyl]benzoic acid (0.3 g, 1.3 mmol) and Lawesson's reagent (0.5 ml, 1.3 mmol) in THF (10 ml) was stirred at ambient temperature for 1 hr under an atmosphere of nitrogen. The reaction mixture was concentrated and the crude product was purified by flash chromatography on silica gel (elution with 10% ethyl acetate in n-hexane) to provide 4-methyl-3-[(quinolin-3-yl)ethynyl]thiobenzoic acid.

reactant | 4-methyl-3-[(quinolin-3-yl)ethynyl]benzoic acid | 1.3 mmol, 0.3 g | CC1=C(C=C(C(=O)O)C=C1)C#CC=1C=NC2=CC=CC=C2C1 | C19H13NO2
reactant | Lawesson's reagent | 1.3 mmol, 0.5 ml | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-methyl-3-[(quinolin-3-yl)ethynyl]thiobenzoic acid | CC1=C(C=C(C(=S)O)C=C1)C#CC=1C=NC2=CC=CC=C2C1 | C19H13NOS
